US07338957B2
4-Chloro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid {2-methyl-5-[4-(4-methyl-piperazin-1-ylmethyl)-benzoylamino]-phenyl}-amide resin (50 mg, 0.05 mmol), prepared as in reference 2, in n-butanol (2 mL) is mixed with acetyl chloride (17.8 μL, 0.25 mmol) and 3-aminobenzenesulfonamide (43 mg, 0.25 mmol), and shaken at 80° C. for 24 hours. The resulting mixture is filtered and the resin is treated with TFA/CH2Cl2/H2O (45/50/5) (600 μL) for 30 minutes before filtering and washing with CH2Cl2 (3×2 mL), MeOH (3×2 mL). The washes are then combined together with n-butanol and concentrated. The residue is purified by preparative HPLC-MS to give 4-(3-sulfamoyl-phenylamino)-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid {2-methyl-5-[4-(4-methyl-piperazin-1-ylmethyl)-benzoylamino]-phenyl}-amide (18.0 mg, yield 55%); 1H NMR (400 MHz, DMSO-d6) δ 11.45 (s, 1H), 10.27 (s, 1H), 10.09 (s, 1H), 8.59 (s, 1H), 8.49 (s, 1H), 8.29 (s, 1H), 8.17 (d, J=7.95 Hz, 1H), 7.95 (d, J=7.94, 2H), 7.87 (d, J=3.85 Hz, 1H), 7.54 (dd, J=7.61, 15.51 Hz, 2H), 7.52 (s, 1H), 7.45 (d, J=7.88 Hz, 2H), 7.37 (s, 2H), 7.25 (d, J=8.30 Hz, 1H), 7.11 (d, J=3.88 Hz, 1H), 3.69 (s, 2H), 3.54-3.3.17 (m, 2H), 3.01-2.93 (m, 6H), 2.75 (s, 3H), 2.41 (s, 3H); ESIMS m/z 654.20 (M++1).

reactant | 4-Chloro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid {2-methyl-5-[4-(4-methyl-piperazin-1-ylmethyl)-benzoylamino]-phenyl}-amide | 0.05 mmol, 50 mg | CC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O)NC(=O)N1C=CC2=C1N=CN=C2Cl | C27H28ClN7O2
reactant | acetyl chloride | 0.25 mmol, 17.8 μL | C(C)(=O)Cl | C2H3ClO
reactant | 3-aminobenzenesulfonamide | 0.25 mmol, 43 mg | NC=1C=C(C=CC1)S(=O)(=O)N | C6H8N2O2S
solvent | n-butanol | 2 mL | C(CCC)O | C4H10O
product | 4-(3-sulfamoyl-phenylamino)-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid {2-methyl-5-[4-(4-methyl-piperazin-1-ylmethyl)-benzoylamino]-phenyl}-amide | 18.0 mg, yield 55% | CC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O)NC(=O)N1C=CC2=C1N=CN=C2NC2=CC(=CC=C2)S(N)(=O)=O | C33H35N9O4S
